US06479524B1
c. 2,5-dimethyl-N-(3-ethoxycarbonyl-propionyl)-N-isopropyl-4-iodo-aniline
2.0 g (6.9 mmol) of 2,5-dimethyl-4-iodo-N-isopropyl-aniline and 2.4 ml of (13.8 mmol) of N-ethyl-diisopropylamine are dissolved in 30 ml of tetrahydrofuran and, after the addition of 1.5 ml (10.5 mmol) of ethyl succinate chloride, refluxed for 2 hours. After cooling to ambient temperature the mixture is diluted with ethyl acetate and washed successively with 1 molar hydrochloric acid and 1 molar sodium hydroxide solution. The organic phase is dried over sodium sulphate and evaporated down.

reactant | 2,5-dimethyl-4-iodo-N-isopropyl-aniline | 6.9 mmol, 2.0 g | CC1=C(NC(C)C)C=C(C(=C1)I)C | C11H16IN
reactant | N-ethyl-diisopropylamine | 13.8 mmol, 2.4 ml | C(C)N(C(C)C)C(C)C | C8H19N
reactant | ethyl succinate chloride | 10.5 mmol, 1.5 ml | [Cl-].C(CCC(=O)[O-])(=O)OCC
solvent | tetrahydrofuran | 30 ml | O1CCCC1 | C4H8O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 2,5-dimethyl-N-(3-ethoxycarbonyl-propionyl)-N-isopropyl-4-iodo-aniline | CC1=C(N(C(C)C)C(CCC(=O)OCC)=O)C=C(C(=C1)I)C | C17H24INO3
